// Generated for: spectre
// Generated on: Nov 13 18:10:44 2014
// Design library name: Lib6710_08
// Design cell name: testbuff
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/uusoc/facility/cad_common/local/class/6710/F13/cadence/Spectre/T89Y.scs"

// Library name: Lib6710_08
// Cell name: INV1
// View name: schematic
subckt INV1 A Y inh_inh_bn _net0
    M0 (Y A vdd! _net0) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    M1 (Y A 0 inh_inh_bn) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
ends INV1
// End of subcircuit definition.

// Library name: Lib6710_08
// Cell name: INVX4
// View name: schematic
subckt INVX4 A Y inh_inh_bn _net0
    M0 (Y A 0 _net0) ami06N w=6u l=600n as=9e-12 ad=9e-12 ps=15.0u \
        pd=15.0u m=1 region=sat
    M1 (Y A vdd! inh_inh_bn) ami06P w=12.0u l=600n as=1.8e-11 \
        ad=1.8e-11 ps=27.0u pd=27.0u m=1 region=sat
ends INVX4
// End of subcircuit definition.

// Library name: Lib6710_08
// Cell name: BUFX4
// View name: schematic
subckt BUFX4 A Y inh_inh_bn _net0
    I0 (A net5 _net0 inh_inh_bn) INV1
    I1 (net5 Y inh_inh_bn _net0) INVX4
ends BUFX4
// End of subcircuit definition.

// Library name: Lib6710_08
// Cell name: testbuff
// View name: schematic
I0 (net2 net3 vdd! 0) BUFX4
V0 (vdd! 0) vsource type=dc dc=5
V1 (net2 0) vsource type=pulse val0=0 val1=5 period=20n width=10n
C0 (net3 0) capacitor c=1p m=1
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=100n write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts  where=rawfile
saveOptions options save=allpub
